US06281363B1
A solution of 0.830 g of N-(3,5-dibenzyl-hexahydro-2,4,6-trioxo-1,3,5-triazin-1-yl)-2(R)-[1(S)-(tert-butyloxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleramide in 50 ml of methanol and a few drops of acetic acid was hydrogenated in the presence of 0.08 g of palladium (II) hydroxide for 8 hours. The mixture was filtered and evaporated to give 0.588 g of 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-(2,4,6-trioxo-1,3,5-triazin-1-yl)valeramide in the form of white solid.

reactant | N-(3,5-dibenzyl-hexahydro-2,4,6-trioxo-1,3,5-triazin-1-yl)-2(R)-[1(S)-(tert-butyloxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.830 g | C(C1=CC=CC=C1)N1C(N(C(N(C1=O)CC1=CC=CC=C1)=O)NC([C@H](CC(C)C)[C@H](CC=CC1=CC=CC=C1)C(=O)OC(C)(C)C)=O)=O | C38H44N4O6
solvent | methanol | 50 ml | CO | CH4O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
catalyst | palladium (II) hydroxide | 0.08 g | [OH-].[Pd+2].[OH-]
product | 2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenylbutyl]-4-methyl-N-(2,4,6-trioxo-1,3,5-triazin-1-yl)valeramide | 0.588 g | C(C)(C)(C)OC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(NC(NC1=O)=O)=O)CC(C)C | C24H34N4O6
